US08912188B2
To a solution of 4-hydroxy-1-phenylbut-2-yn-1-one (3.2 g, crude) in toluene (60 mL) was added HBr (40%, 15 mL). The resulting solution was stirred for 40 min at 50° C. and then the reaction mixture was poured into water (300 mL), extracted with Et2O (4×100 mL), dried over anhydrous sodium sulfate and then concentrated in vacuo to give a residue, which was purified by silica gel column chromatography (petroleum ether) to afford 4-bromo-2-phenylfuran as a yellow solid (1.3 g, 50%).

reactant | 4-hydroxy-1-phenylbut-2-yn-1-one | 3.2 g | OCC#CC(=O)C1=CC=CC=C1 | C10H8O2
reactant | HBr | 15 mL | Br | BrH
reactant | water | 300 mL | O | H2O
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 4-bromo-2-phenylfuran | 1.3 g, 50% | BrC=1C=C(OC1)C1=CC=CC=C1 | C10H7BrO
